US04731358
6-ethoxycarbonyl-3-methylsulfinyl-β-carboline
270 mg of 6-benzyloxycarbonyl-3-methylsulfinyl-β-carboline are refluxed for 1.5 hours with an alcoholate solution prepared from 27 mg 80% sodium hydride and 15 ml of absolute ethanol. After concentration, it is picked up in ethyl acetate and suctioned off. 78 mg of 6-ethoxycarbonyl-3-methylsulfinyl-β-carboline with a 240°-243° C. melting point are obtained.

reactant | 6-benzyloxycarbonyl-3-methylsulfinyl-β-carboline | 270 mg | C(C1=CC=CC=C1)OC(=O)C=1C=C2C=3C=C(N=CC3NC2=CC1)S(=O)C | C20H16N2O3S
reactant | sodium hydride | 27 mg | [H-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-ethoxycarbonyl-3-methylsulfinyl-β-carboline | C(C)OC(=O)C=1C=C2C=3C=C(N=CC3NC2=CC1)S(=O)C | C15H14N2O3S
